US07951950B2
A round bottom flask with magnetic stirrer was charged with cis-2-methyl-1-(4-trifluoromethyl-benzoyl)-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid methyl ester (980 mg, 2.60 mmol) in tetrahydrofuran (10.0 mL). To the reaction was added a solution of lithium hydroxide (179 mg, 7.47 mmol) in water (10 mL), followed by methanol (10 mL). The reaction was stirred at room temperature for 18-20 hours under an argon atmosphere. The reaction was transferred to a separatory funnel and the pH adjusted to 2 via addition of 1N hydrochloric acid. The mixture was extracted with ethyl acetate (3×35 mL) and the combined extractions were washed with brine (1×50 mL), dried over magnesium sulfate, and filtered. The filtrate was concentrated in vacuo to yield 2-methyl-1-(4-trifluoromethyl-benzoyl)-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid (mixture of cis and trans isomers) as an off-white solid (912 mg, 97%). The mixture was used without purification in subsequent reactions.

reactant | cis-2-methyl-1-(4-trifluoromethyl-benzoyl)-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid methyl ester | 2.60 mmol, 980 mg | COC(=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)C(F)(F)F)=O)C | C20H18F3NO3
reactant | lithium hydroxide | 7.47 mmol, 179 mg | [OH-].[Li+]
reactant | methanol | 10 mL | CO | CH4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 2-methyl-1-(4-trifluoromethyl-benzoyl)-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid | 912 mg, 97% | CC1N(C2=CC=CC=C2C(C1)C(=O)O)C(C1=CC=C(C=C1)C(F)(F)F)=O | C19H16F3NO3
